US08008506B2
(R)-N-(2-fluoro-5-(2-iodo-1-(triethylsilyloxy)ethyl)phenyl)methanesulfonamide (500 mg) and 2-(benzylamino)ethanol (1.6 g) were mixed, and the mixture was stirred overnight at 100° C. The reaction solution was cooled to room temperature, and then was purified by column chromatography (“COLUMN-H”; n-hexane:ethyl acetate=2:1). Thus, (R)-N-(5-(2-(benzyl-(2-hydroxyethyl)amino)-1-(triethylsilyloxy)ethyl) -2-fluorophenyl)methanesulfonamide (477.5 mg) was obtained. Subsequently,4-N,N-dimethylaminopyridine (12 mg), triethylamine (163 μL) and THF (15 mL) were added thereto, and a Boc2O-THF solution [10 mL; solution prepared by dissolving Boc2O (230 mg) in THF (10 mL)] was added dropwise. The mixture was stirred for 3 hours at room temperature. The reaction solution was concentrated under reduced pressure, and then the residue was purified by column chromatography (“COLUMN-H”; n-hexane:ethyl acetate=3:1). Thus, the title compound (500.3 mg) was obtained.

reactant | (R)-N-(2-fluoro-5-(2-iodo-1-(triethylsilyloxy)ethyl)phenyl)methanesulfonamide | 500 mg | FC1=C(C=C(C=C1)[C@H](CI)O[Si](CC)(CC)CC)NS(=O)(=O)C | C15H25FINO3SSi
reactant | 2-(benzylamino)ethanol | 1.6 g | C(C1=CC=CC=C1)NCCO | C9H13NO
product | (R)-N-(5-(2-(benzyl-(2-hydroxyethyl)amino)-1-(triethylsilyloxy)ethyl) -2-fluorophenyl)methanesulfonamide | 477.5 mg | C(C1=CC=CC=C1)N(C[C@H](O[Si](CC)(CC)CC)C=1C=CC(=C(C1)NS(=O)(=O)C)F)CCO | C24H37FN2O4SSi
